US06815456B2
Preparation of 1-(Phenylsulfonyl)-4-(3-pyrrolidinyloxy)-1H-indole Hydrochloride
A solution of thus-obtained t-butyl 3-{[1-(phenylsulfonyl)-1H-indol-4-yl]oxy}-1-pyrrolidinecarboxylate (0.41 g, 0.93 mmol) in methanol and HCl (5.0 ml, 1M in ether) is heated at 60° C. under nitrogen for 2 h and concentrated in vacuo. The residue is treated with ethyl acetate and filtered. The filtercake is dried under vacuum to give the title product as an off white solid, 0.301 g, mp 200-201° C., identified by NMR and mass spectral analyses.

reactant | t-butyl 3-{[1-(phenylsulfonyl)-1H-indol-4-yl]oxy}-1-pyrrolidinecarboxylate | 0.93 mmol, 0.41 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)OC1CN(CC1)C(=O)OC(C)(C)C | C23H26N2O5S
reactant | HCl | 1M, 5.0 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 1-(Phenylsulfonyl)-4-(3-pyrrolidinyloxy)-1H-indole Hydrochloride | Cl.C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)OC1CNCC1 | InChI=1S/C18H18N2O3S.ClH/c21-24(22,15-5-2-1-3-6-15)20-12-10-16-17(20)7-4-8-18(16)23-14-9-11-19-13-14;/h1-8,10,12,14,19H,9,11,13H2;1H
